US04324786
Preparation of 3-methoxy-1-propionyl-1,2-dihydro-pyrido[2,3-e]-as-triazine
A mixture of 4.5 g (0.027 moles) of 3-methoxy-1,2-dihydro-pyrido[2,3-e]-as-triazine, 25 ml of propionic anhydride and 25 ml of propionic acid is heated at 100° to 120° C. under argon temperature. The reaction mixture is allowed to cool and the separated crystals are filtered off. 4.5 g (75%) of the title compound are obtained; m.p.: 197°-198° C.

reactant | 3-methoxy-1,2-dihydro-pyrido[2,3-e]-as-triazine | 0.027 moles, 4.5 g | COC=1NNC2=C(N1)N=CC=C2 | C7H8N4O
reactant | propionic anhydride | 25 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | propionic acid | 25 ml | C(CC)(=O)O | C3H6O2
product | 3-methoxy-1-propionyl-1,2-dihydro-pyrido[2,3-e]-as-triazine | 4.5 g, 75% | COC=1NN(C2=C(N1)N=CC=C2)C(CC)=O | C10H12N4O2
